US08017611B2
Over a period of 1 minute at −10° C. under nitrogen, a solution of methylmagnesium bromide (1.287 ml, 1.4M in toluene) was added portionwise to a stirred solution of tert-butyl 4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-3-formyl-pyrazol-1-yl]piperidine-1-carboxylate (0.44 g), dissolved in tetrahydrofuran (10 ml). The resulting solution was stirred at room temperature for 1 hour. The reaction mixture was allowed to warm to room temperature under stirring over a period of 1 hour, quenched with a saturated aqueous solution of ammonium chloride and extracted with dichloromethane (2×50 ml). The combined organic phases were washed with water (2×10 ml), dried over magnesium sulfate and concentrated to afford the crude product as a dark orange oil which solidified on standing. The product was purified by flash chromatography on silica gel eluting with 30 to 100% ethyl acetate in petroleum ether. The solvent was evaporated to dryness to afford tert-butyl 4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-3-(1-hydroxyethyl)pyrazol-1-yl]piperidine-1-carboxylate (0.120 g) as a solid. NMR Spectrum: (DMSOd6) 1.42 (d, 3H), 1.43 (s, 9H), 1.79 (dd, 1H), 1.85 (dd, 1H), 2.01-2.08 (m, 2H), 2.93 (bs, 2H), 4.06 (bs, 2H), 4.28-4.38 (m, 1H), 4.77-4.87 (m, 1H), 5.22 (d, 1H), 7.40-7.48 (m, 2H), 7.64 (bs, 2H), 7.77 (dd, 1H), 7.84 (dd, 1H), 8.10 (s, 1H), 8.51 (d, 1H), 8.56 (d, 1H); Mass spectrum: M+H+ 505.

reactant | methylmagnesium bromide | 1.4M, 1.287 ml | C[Mg]Br
reactant | tert-butyl 4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-3-formyl-pyrazol-1-yl]piperidine-1-carboxylate | 0.44 g | NC1=C(C=C(C=N1)C=1C(=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C=O)C=1OC2=C(N1)C=CC=C2 | C26H28N6O4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | tert-butyl 4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-3-(1-hydroxyethyl)pyrazol-1-yl]piperidine-1-carboxylate | 0.120 g | NC1=C(C=C(C=N1)C=1C(=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C(C)O)C=1OC2=C(N1)C=CC=C2 | C27H32N6O4
